US05578724
(4aR)-(10bR)-8-chloro-4-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
Two hundred L of THF was added to a reactor, and 24.6 kg of (4aR)-(10bR)-8-chloro-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one was added. Then 35 kg of methyl iodide was added, rinsed in with 10 L of THF. A 79.6 kg portion of 50% aqueous sodium hydroxide was added in 13 minutes at 15°-25°, rinsed in with 40 L of THF. The mixture was stirred at 36°-39° for 13 hours, and was then cooled to 15°-25°. The layers were allowed to separate, and the water/THF phase was neutralized to pH 7 with hydrochloric acid and heated to reflux. Distillate was removed until the temperature reached 77°. A total of 154 kg of water was added from time to time. The solution was cooled over 3 hours to 3°-10°, and was then stirred vigorously at that temperature until solids began to form. Then the slurry was stirred gently at constant temperature for 3 hours. The slurry was filtered, and the vessel and filter cake were washed with cold water. The cake was air dried at 25°-35° for 75 hours to obtain 27.3 kg of the desired product, potency 85.1% by liquid chromatographic analysis.

reactant | (4aR)-(10bR)-8-chloro-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 24.6 kg | ClC1=CC2=C([C@H]3CCC(N[C@@H]3CC2)=O)C=C1 | C13H14ClNO
reactant | methyl iodide | 35 kg | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | (4aR)-(10bR)-8-chloro-4-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 27.3 kg | ClC1=CC2=C([C@H]3CCC(N([C@@H]3CC2)C)=O)C=C1 | C14H16ClNO
